US08865726B2
To a solution of 2-(4-bromophenyl)-1H-imidazole (15.0 g, 67.2 mmol) in DMF (150 ml) at 0° C. was added NaH (60% dispersion in mineral oil, 3.90 g, 97.5 mmol). The mixture was stirred at 0° C. for 1 hour and (2-(chloromethoxy)ethyl)trimethylsilane (14.8 mL, 84.0 mmol) was added. The resulting solution was allowed to warm from 0° C. to ambient temperature while stirring over 24 hours. The reaction mixture was diluted with 1:1 brine:H2O (500 mL), extracted with EtOAc (3×200 mL), dried over sodium sulfate, filtered and concentrated to an oil. Purification of the oil by column chromatography, eluting with 10-50% EtOAc/Hexane, afforded 2-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole as a light orange oil, (17.1 g, 70%). LCMS (APCI+) m/z 353, 355 [M+H]+.

reactant | 2-(4-bromophenyl)-1H-imidazole | 67.2 mmol, 15.0 g | BrC1=CC=C(C=C1)C=1NC=CN1 | C9H7BrN2
reactant | NaH | 97.5 mmol, 3.90 g | [H-].[Na+]
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 84.0 mmol, 14.8 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | BrC1=CC=C(C=C1)C=1N(C=CN1)COCC[Si](C)(C)C | C15H21BrN2OSi
